US06582351B1
A solution of 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one (80 mg) in ethyl formate (2 mL) was heated under reflux for 10 hours. After evaporation of the solvent, the residue was subjected to a preparative thin-layer chromatography eluting with a mixture of chloroform and methanol (15:1) to give 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-1-formylpyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one (52 mg) as amorphous powders.

reactant | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one | 80 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)[C@@H]3CNCC3)=O)C=CC1OC | C20H19ClN4O2
reactant | ethyl formate | 2 mL | C(=O)OCC | C3H6O2
product | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-1-formylpyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one | 52 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)[C@@H]3CN(CC3)C=O)=O)C=CC1OC | C21H19ClN4O3
